US07576103B2
[2-(6-Benzenesulfonyl-1,2,3,4-tetrahydro-naphthalen-1-ylamino)-ethyl]-methyl-carbamic acid tert-butyl ester (0.4 g, 0.9 mmol) was dissolved in 20 mL of tetrahydrofuran, and 20 mL of 10% HCl in Et2O was added. The reaction mixture was refluxed for one hour and then cooled. The solvent was evaporated under reduced pressure, and the resulting solid was recrystallized from EtOH-Et2O to yield 0.3 g (0.87 mmol, 97%) of N-(6-benzenesulfonyl-1,2,3,4-tetrahydro-naphthalen-1-yl)-N′-methyl-ethane-1,2-diamine as a hydrochloride salt. MS: 345 (M+H)+.

reactant | [2-(6-Benzenesulfonyl-1,2,3,4-tetrahydro-naphthalen-1-ylamino)-ethyl]-methyl-carbamic acid tert-butyl ester | 0.9 mmol, 0.4 g | C(C)(C)(C)OC(N(C)CCNC1CCCC2=CC(=CC=C12)S(=O)(=O)C1=CC=CC=C1)=O | C24H32N2O4S
reactant | HCl | 20 mL | Cl | ClH
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | Et2O | CCOCC | C4H10O
product | N-(6-benzenesulfonyl-1,2,3,4-tetrahydro-naphthalen-1-yl)-N′-methyl-ethane-1,2-diamine | 0.87 mmol, 0.3 g, 97% | C1(=CC=CC=C1)S(=O)(=O)C=1C=C2CCCC(C2=CC1)NCCNC | C19H24N2O2S
